US04198532
400 ml of anhydrous toluene and 200 g of powdered potassium hydroxide are added to a 2 liter round flask which is provided with a stirrer, condenser, thermometer and dropping funnel. The mixture is cooled to -20° C. and there are now added thereto at a temperature between -20° C. and -10° C. 66g (1 mol) of 3-methyl-3-buten-1-yne [A. F. Thompson jun. N. A. Milas, Ida Rovno, J. Am. Chem. Soc. 63, (1941), 752-755]. The mixture is held at a temperature of -10° C. for 1.5 hours while stirring and there are slowly added thereto at 0° C. 110 g (1.1 mol) of methyl isobutyl ketone. The mixture is now stirred at 0° C. for 1 hour and then the temperature is allowed to rise to 20° C. within 2 hours with further stirring. The mixture is added to ice, extracted with 500 ml of toluene and washed with brine until neutral. The solvent is then evaporated. There are obtained 183 g of crude product, distillation of which yields 129.5 g (78.4%) of 2,4,7-trimethyl-7-octen-5-yn-4-ol of boiling point 76°-77° C./5 mmHg; nD20 =1.4690; d420 =0.8620.

reactant | potassium hydroxide | 200 g | [OH-].[K+]
reactant | 3-methyl-3-buten-1-yne | CC(C#C)=C | C5H6
reactant | methyl isobutyl ketone | 1.1 mol, 110 g | C(C(C)C)C(=O)C | C6H12O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4,7-trimethyl-7-octen-5-yn-4-ol | 129.5 g, 78.4% | CC(C)CC(C#CC(=C)C)(O)C | C11H18O
